US05364871
A solution of hydrazine hydrate (0.77 g) in methanol (5 ml) was added dropwise to a suspension of 6-phthalimidomethyl-2-pyridinecarbonitrile (3.74 g) in a mixture of methanol (10 ml) and tetrahydrofuran (15 ml) at ambient temperature with stirring. After the mixture was stirred for two hours, diluted hydrochloric acid (prepared by concentrated hydrochloric acid (1.38 ml) and water (6.91 ml)) was dropped to the mixture. After stirring for three hours, the solvent was evaporated in vacuo. The residue was mixed with water (20 ml) and an insoluble material was filtered off. The filtrate was evaporated in vacuo to give 6-aminomethyl-2-pyridinecarbonitrile hydrochloride (2.40 g).

reactant | hydrazine hydrate | 0.77 g | O.NN
reactant | 6-phthalimidomethyl-2-pyridinecarbonitrile | 3.74 g | C1(C=2C(C(N1CC1=CC=CC(=N1)C#N)=O)=CC=CC2)=O | C15H9N3O2
reactant | hydrochloric acid | 1.38 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 6-aminomethyl-2-pyridinecarbonitrile hydrochloride | 2.40 g | Cl.NCC1=CC=CC(=N1)C#N | InChI=1S/C7H7N3.ClH/c8-4-6-2-1-3-7(5-9)10-6;/h1-3H,4,8H2;1H
